US04568695
2-Amino-5chloro-3-[hydroxy(phenyl)methyl]benzeneethanol
A solution of 15.85 g (0.05 mole) of 2-amino-3-benzoyl-5-chlorobenzeneacetic acid, ethyl ester dissolved in 100 ml of dry tetrahydrofuran was added dropwise to a suspension of 4.0 g (0.105 mole) of lithium aluminum hydride in 50 ml of dry tetrahydrofuran. Gentle reflux was maintained during the addition. Reflux was continued for 2 hours after completion of the addition. The mixture was cooled and carefully treated with 4 ml of water, 4 ml of 15% sodium hydroxide and 12 ml of water. The resulting mixture was filtered, the filtrate stripped and the resulting residue recrystallized from toluene. The titled compound, 10.5 g (70%) having a m.p. of 130°-132° C. was obtained.

reactant | 2-amino-3-benzoyl-5-chlorobenzeneacetic acid, ethyl ester | 0.05 mole, 15.85 g | NC1=C(C=C(C=C1C(C1=CC=CC=C1)=O)Cl)CC(=O)OCC | C17H16ClNO3
reactant | lithium aluminum hydride | 0.105 mole, 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4 ml | O | H2O
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | water | 12 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Amino-5chloro-3-[hydroxy(phenyl)methyl]benzeneethanol | NC1=C(C=C(C=C1C(C1=CC=CC=C1)O)Cl)CCO | C15H16ClNO2
